US08669266B2
(i) 4-[2-((R)-3-Hydroxy-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid methyl ester
To a solution of 1000 mg 4-Carboxymethoxy-7-methyl-quinoline-2-carboxylic acid methyl ester in 5 ml DMF were added 956 mg pentafluorophenol and 994 mg EDC. The mixture was stirred under exclusion of moisture until LCMS indicated complete conversion to the corresponding pentafluorophenolester. (R)-3-hydroxypyrrolidine (287 mg) was mixed with 1.3 ml N-ethylmorpholine and 5 ml DMF and this mixture added dropwise to the solution of the pentafluorophenolester. After 12 h the reaction mixture was diluted with DCM and washed with aqueous LiCl (4%) and saturated aqueous NaHCO3. The crude product obtained after evaporation of the solvent was purified by flash chromatography on silica eluting with ethyl acetate/methanol gradient. Yield: 996 mg.

reactant | 4-Carboxymethoxy-7-methyl-quinoline-2-carboxylic acid methyl ester | 1000 mg | COC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)O)C | C14H13NO5
reactant | pentafluorophenol | 956 mg | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | (R)-3-hydroxypyrrolidine | 287 mg | O[C@H]1CNCC1 | C4H9NO
reactant | N-ethylmorpholine | 1.3 ml | C(C)N1CCOCC1 | C6H13NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EDC | 994 mg
product | 4-[2-((R)-3-Hydroxy-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid methyl ester | COC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)N1C[C@@H](CC1)O)C | C18H20N2O5
